Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2].[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.893360691080001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9][H:10],8.40675668038
[C:1]=[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][O:4])[C:9]([H:10])([H:11])[H:12].[C:5]([H:6])([H:7])[H:8],2.96893725678
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8](=[O:9])([H:10])[H:11],-0.15657052916
[O:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.75017974008
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3],5.34064688511
[O:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][H:8]>>[C:7][H:8].[O:1][O:2][C:3]([H:4])[C:5]#[C:6],8.09519122153
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.67726405809
[H:1][C:2][O:3][C:4]#[C:5][H:6].[O:7][H:8]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],-3.3847414673400005
[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.37417578528
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],3.32355504587
[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-5.73770843524
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:5][H:6].[H:1][C:2]=[C:3]([H:4])[C:7][H:8],8.10174729346
[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-0.84865243582
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-1.08331223701
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11].[H:12],3.64587335809
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.30447951088
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.26957976019
[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8],-2.65644488499
[H:1][C:2]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.10165653514
[C:5]=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.9760396603800015
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11]>>[H:1][C:2]1[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11]1,0.279466901779
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.6972078993
[H:1][C:2]([H:3])[O:4][C:5]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.63399337003
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-5.8237297838
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],1.99376456244
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10][H:11],-3.47875458447
[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][H:7]>>[C:2]([C:3]#[C:4][H:5])[O:6][H:7].[O:1],7.34427717204
[H:1][C:2][O:3][O:4][H:5]>>[H:1][C:2][O:3][O:4].[H:5],4.56360317809
